* C:\Users\tim-j\Mein_Leben\_Projekte\git\hsrm_ap_bsc\WS2021\ET\versuch 5\Draft1.asc
XU1 Eingang1 N001 V+ V- N002 ADTL082
XU2 Eingang2 N005 V+ V- N006 ADTL082
XU3 N004 N003 V+ V- Ausgang1 ADTL082
R5 N001 N005 680
R6 N002 N001 32k670
R7 N006 N005 33k
R1 N003 N002 1.5k
R2 N004 N006 1.5k
R4 0 N004 1.5k
R3 Ausgang1 N003 1.5k
V1 V+ 0 12
V2 0 V- 12V
XU4 Eingang2 N007 N008 Eingang1 V- 0 Ausgang2 V+ AD8226
R8 N007 N008 470
V3 Eingang1 Eingang2 0
V4 Eingang2 0 AC 1
* Instrumentenverstärker aus drei Operationsverstärkern
* Integrierter Instrumentenverstärker
.ac dec 100 1 100k
.lib ADI.lib
.lib ADI1.lib
.backanno
.end
